US04404018
Preparation of N-butyl-N-furfuryl-2 -[2-bromo-5-(2-cyano-4-bromophenoxy)phenoxy]propionamide
N-Butyl-N-furfurylamine (0.015 mole) triethylamine (5 ml) and methylene chloride (50 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and addition funnel. The reaction mixture is cooled to about -15° C. and a solution of 2-[2-bromo-5-(2-cyano-4-bromophenoxy)phenoxy]propionyl chloride (0.01 mole) in methylene chloride (50 ml) is added dropwise with stirring. After this time the mixture is transferred to a separatory funnel and is washed with water and dilute aqueous sodium bicarbonate. The washed solution is then dried, filtered and stripped of solvent leaving a residue. This residue is then purified by subjecting it to elution chromatography using mixtures of ethyl acetate and hexane with increasing concentrations of ethyl acetate as the eluant. The desired fractions determined by IR spectroscopy are then stripped of solvent to yield the desired product N-butyl-N-furfuryl-2-[2-bromo-5-(2-cyano-4-bromophenoxy)phenoxy]propionamide.

reactant | N-Butyl-N-furfurylamine | 0.015 mole, 5 ml | C(CCC)NCC1=CC=CO1 | C9H15NO
reactant | 2-[2-bromo-5-(2-cyano-4-bromophenoxy)phenoxy]propionyl chloride | 0.01 mole | BrC1=C(OC(C(=O)Cl)C)C=C(C=C1)OC1=C(C=C(C=C1)Br)C#N | C16H10Br2ClNO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-butyl-N-furfuryl-2-[2-bromo-5-(2-cyano-4-bromophenoxy)phenoxy]propionamide | C(CCC)N(C(C(C)OC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Br)C#N)Br)=O)CC1=CC=CO1 | C25H24Br2N2O4
